US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.066 g, 0.383 mmol) was reacted with (3-azido-propenyl)-benzene, which was synthesized using previously reported methods (Rad et al., Tetrahedron Letters 2007, 48, 3445-3449), (0.079 g, 0.460 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(3-Phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride (0.049 g, 39%) of a pale yellow oil. 1H NMR (300 MHz, CD3OD) δ 8.19 (s, 1H), δ 7.44 (d, 2H), δ 7.29 (m, 3H), δ 6.73 (d, 1H), δ 6.53 (s, 1H), δ 6.42 (m, 2H), δ 5.24 (d, 2H), δ 3.07 (t, 2H), δ 2.88 (t, 2H) ppm; 13C 148.6, 145.3, 139.4, 139.2, 129.8, 129.7, 129.6, 128.5, 128.4, 127.6, 54.6, 47.3, 45.9, 26.3, 22.6 ppm; HRMS (ESI) calcd for C16H19N6(M+) 295.1665. found 295.1670.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.383 mmol, 0.066 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | (3-azido-propenyl)-benzene | N(=[N+]=[N-])CC=CC1=CC=CC=C1 | C9H9N3
product | 4-{2-[1-(3-Phenyl-allyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride | 0.049 g, 39% | Cl.C1(=CC=CC=C1)C=CCN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C16H18N6.ClH/c17-16-18-11-14(19-16)8-9-15-12-22(21-20-15)10-4-7-13-5-2-1-3-6-13;/h1-7,11-12H,8-10H2,(H3,17,18,19);1H
